### PR TITLE
[Merged by Bors] - refactor(EReal): add add/sub lemmas and refactor limsup_add on EReal

### PR DESCRIPTION
**Pull request by D-Thomine**
This PR :

- adds a few lemmas about addition/subtraction in `Topology.Instances.EReal`. These are translations in `EReal` of similar lemmas about multiplication/division in `ENNReal` (see `Data.ENNReal.Inv`).
- renames [EReal.add_le_of_forall_add_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/EReal.html#EReal.add_le_of_forall_add_le), [EReal.le_add_of_forall_le_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/EReal.html#EReal.le_add_of_forall_le_add) to bring them in line with similar lemmas in `Real`/`ENNReal` (see e.g. [add_le_of_forall_lt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Group/DenselyOrdered.html#add_le_of_forall_lt))
- simplifies significantly the proofs of `add_le_of_forall_lt` and `le_add_of_forall_lt`.
- renames [EReal.add_liminf_le_liminf_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/EReal.html#EReal.add_liminf_le_liminf_add), [EReal.limsup_add_le_add_limsup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/EReal.html#EReal.limsup_add_le_add_limsup), [EReal.limsup_add_liminf_le_limsup_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/EReal.html#EReal.limsup_add_liminf_le_limsup_add), [EReal.liminf_add_le_limsup_add_liminf](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/EReal.html#EReal.liminf_add_le_limsup_add_liminf) to bring them in line with similar lemmas in `Real`/`ENNReal` (see e.g. [ENNReal.limsup_mul_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/ENNReal.html#ENNReal.limsup_mul_le))
- removes [EReal.le_of_forall_lt_iff_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/EReal.html#EReal.le_of_forall_lt_iff_le), [EReal.ge_of_forall_gt_iff_ge](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/EReal.html#EReal.ge_of_forall_gt_iff_ge), [EReal.limsup_le_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/EReal.html#EReal.limsup_le_iff) which were very specialized lemmas used only in the older version of the proofs above.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Real/EReal.lean [hunk 1]
```diff
@@ -928,6 +928,11 @@ theorem neg_lt_iff_neg_lt {a b : EReal} : -a < b ↔ -b < a := by
 
 theorem neg_lt_of_neg_lt {a b : EReal} (h : -a < b) : -b < a := neg_lt_iff_neg_lt.1 h
 
+theorem lt_neg_iff_lt_neg {a b : EReal} : a < -b ↔ b < -a := by
```
Comment (YaelDillies) [inline Mathlib/Data/Real/EReal.lean:931]:
```suggestion
theorem lt_neg_comm {a b : EReal} : a < -b ↔ b < -a := by
```

File: Mathlib/Data/Real/EReal.lean [hunk 2]
```diff
@@ -1047,11 +1000,94 @@ theorem toReal_sub {x y : EReal} (hx : x ≠ ⊤) (h'x : x ≠ ⊥) (hy : y ≠
...
+private lemma exists_lt_add_right {a b c : EReal} (hc : c < a + b) : ∃ b' < b, c < a + b' := by
+  simp_rw [add_comm a] at hc ⊢; exact exists_lt_add_left hc
+
+lemma add_le_of_forall_lt {a b c : EReal} (h : ∀ a' < a, ∀ b' < b, a' + b' ≤ c) : a + b ≤ c := by
+  refine le_of_forall_ge_of_dense fun d hd ↦ ?_
+  obtain ⟨a', ha', hd⟩ := exists_lt_add_left hd
+  obtain ⟨b', hb', hd⟩ := exists_lt_add_right hd
+  exact hd.le.trans (h _ ha' _ hb')
+
+lemma le_add_of_forall_lt {a b c : EReal} (h₁ : a ≠ ⊥ ∨ b ≠ ⊤) (h₂ : a ≠ ⊤ ∨ b ≠ ⊥)
```
Comment (YaelDillies) [inline Mathlib/Data/Real/EReal.lean:1082]:
```suggestion
lemma le_add_of_forall_gt {a b c : EReal} (h₁ : a ≠ ⊥ ∨ b ≠ ⊤) (h₂ : a ≠ ⊤ ∨ b ≠ ⊥)
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Topology/Instances/EReal.lean [hunk 3]
```diff
@@ -214,65 +214,56 @@ lemma liminf_neg : liminf (- v) f = - limsup v f :=
...
-  lt_of_lt_of_le (add_lt_add ha hb) add_liminf_le_liminf_add
+  (add_lt_add ha hb).trans_le le_liminf_add
 
 lemma liminf_add_top_of_ne_bot (h : liminf u f = ⊤) (h' : liminf v f ≠ ⊥) :
     liminf (u + v) f = ⊤ := by
-  apply top_le_iff.1 (le_trans _ (add_liminf_le_liminf_add))
+  apply top_le_iff.1 (le_trans _ le_liminf_add)
   rw [h, top_add_of_ne_bot h']
 
-lemma limsup_le_iff {b : EReal} : limsup u f ≤ b ↔ ∀ c : ℝ, b < c → ∀ᶠ a : α in f, u a ≤ c := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal.lean:265]: Unless I've simply missed it, this lemma is just being deleted. Why?

File: Mathlib/Data/Real/EReal.lean (hunk 1 above)
Comment (D-Thomine) [reply Mathlib/Data/Real/EReal.lean]: Done (as well as `neg_lt_comm`), thanks!

File: Mathlib/Data/Real/EReal.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/Data/Real/EReal.lean]: Done.

File: Mathlib/Topology/Instances/EReal.lean (hunk 3 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/EReal.lean:265]: This is a lemma I wrote in the first iteration of my proof of `EReal.add_limsup_le_limsup_add`. Since then, I've written and used `Filter.limsup_le_iff`. In comparison, `EReal.limsup_le_iff` is much less general and slightly hackish (the comparison with reals only was due to the complexity of the older proofs of `EReal.add_limsup_le_limsup_add`.).

There are some little advantages of `EReal.limsup_le_iff` over `Filter.limsup_le_iff`  (`c` can be chosen real, and the inequality at the end is not strict), but it is very, very niche and IMHO is not worth the place it takes in Mathlib. I think `Filter.limsup_le_iff` would do fine anytime now.

Comment (D-Thomine) [reply Mathlib/Topology/Instances/EReal.lean:265]: I'm leaving the _awaiting-author_ tag for now so that this doesn't get merged before you can see this answer. If you are satisfied with it, you can remove the tag; otherwise, I'll modify the PR so that it suits you.

Comment (D-Thomine) [reply Mathlib/Topology/Instances/EReal.lean:265]: @j-loreaux Are you OK with this explanation?

**Comment by YaelDillies** [comment]
Can you please merge master to get rid of the weird CI error?

File: Mathlib/Topology/Instances/EReal.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Topology/Instances/EReal.lean:265]: That's fine, but please add a deprecation.

File: Mathlib/Data/Real/EReal.lean [hunk 4]
```diff
@@ -937,64 +942,6 @@ lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y
...
-
-lemma le_of_forall_lt_iff_le {x y : EReal} : (∀ z : ℝ, x < z → y ≤ z) ↔ y ≤ x := by
-  refine ⟨fun h ↦ WithBot.le_of_forall_lt_iff_le.1 ?_, fun h _ x_z ↦ h.trans x_z.le⟩
-  rw [WithTop.forall]
-  aesop
-
-lemma ge_of_forall_gt_iff_ge {x y : EReal} : (∀ z : ℝ, z < y → z ≤ x) ↔ y ≤ x := by
-  refine ⟨fun h ↦ WithBot.ge_of_forall_gt_iff_ge.1 ?_, fun h _ x_z ↦ x_z.le.trans h⟩
-  rw [WithTop.forall]
-  aesop
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:950]: It looks like these disappeared too? But I think these could be useful. I would keep them.

File: Mathlib/Data/Real/EReal.lean [hunk 5]
```diff
@@ -937,64 +942,6 @@ lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y
...
-
-/-- This lemma is superseded by `add_le_of_forall_add_le`. -/
-private lemma top_add_le_of_forall_add_le {a b : EReal} (h : ∀ c < ⊤, ∀ d < a, c + d ≤ b) :
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:953]: This needs a deprecation too.

**Review by j-loreaux — COMMENTED** [review]
Definitely missing some deprecations, but there are still some results I would keep.

**Comment by j-loreaux** [comment]
@D-Thomine thanks for your consideration about making sure I saw the response and the PR wasn't merged, but for future reference, that's not necessary. If another maintainer / reviewer comes along, they can run it past me if they want (or they can just merge it, which is also fine; I don't have absolute authority). The problem with leaving it as `awaiting-author` is that most everyone will ignore it, and we don't want that for you.

File: Mathlib/Data/Real/EReal.lean [hunk 6]
```diff
@@ -923,10 +923,15 @@ def negOrderIso : EReal ≃o ERealᵒᵈ :=
     invFun := fun x => -OrderDual.ofDual x
     map_rel_iff' := neg_le_neg_iff }
 
-theorem neg_lt_iff_neg_lt {a b : EReal} : -a < b ↔ -b < a := by
+theorem neg_lt_comm {a b : EReal} : -a < b ↔ -b < a := by
```
[the remark this answers is not in the document]
Comment (D-Thomine) [reply Mathlib/Data/Real/EReal.lean]: Thanks for your review! Done.

File: Mathlib/Data/Real/EReal.lean [hunk 7]
```diff
@@ -1047,11 +1000,94 @@ theorem toReal_sub {x y : EReal} (hx : x ≠ ⊤) (h'x : x ≠ ⊥) (hy : y ≠
   lift y to ℝ using ⟨hy, h'y⟩
   rfl
 
-lemma add_sub_cancel_right {a : EReal} {b : Real} : a + b - b = a := by
+lemma add_sub_cancel_left {a : EReal} {b : Real} : a - b + b = a := by
```
[the remark this answers is not in the document]
Comment (D-Thomine) [reply Mathlib/Data/Real/EReal.lean]: Done.

File: Mathlib/Data/Real/EReal.lean (hunk 5 above)
Comment (D-Thomine) [reply Mathlib/Data/Real/EReal.lean:953]: Done.

File: Mathlib/Data/Real/EReal.lean (hunk 4 above)
Comment (D-Thomine) [reply Mathlib/Data/Real/EReal.lean:950]: I see your point. I've added them back.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/Data/Real/EReal.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/Data/Real/EReal.lean]: @j-loreaux I am reviewing another PR by @LorenzoLuccioli and @pitmonticone (it is #17087 ) and I was asking them to replace `neg_lt_comm` to `neg_lt_iff_neg_lt`, when they pointed me at this recent change. Can you explain why do you prefer this name (and its deprecation)? It seems to me that `comm` has quite a difference meaning in the library.
